US04898874
4-(2.1-Benzisoxazol-3-yl)benzeneacetonitrile
A mixture of 11.1 g (0.039 mole) of 3-[4-(bromoethyl)phenyl]-2,1-benzisoxazole, 13.0 g (0.2 mole) of potassium cyanide, 55 ml of water and 80 ml of dioxane was heated at reflux under a nitrogen atmosphere for 2 hrs. The mixture was cooled, 200 ml of methylene chloride was added and the layers were separated. The organic layer was washed twice with water, dried over sodium sulfate and concentrated to give a gummy solid as residue. The residue was chromatographed on 150 g of silica gel and the product was eluted with 10% methanol in benzene to yield 4.4 g (48%) of solid, m.p. 118°-121° C. (after recrystallization from 2-propanol, charcoal).

reactant | 3-[4-(bromoethyl)phenyl]-2,1-benzisoxazole | 0.039 mole, 11.1 g | BrCCC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2 | C15H12BrNO
reactant | potassium cyanide | 0.2 mole, 13.0 g | [C-]#N.[K+]
reactant | water | 55 ml | O | H2O
reactant | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-(2.1-Benzisoxazol-3-yl)benzeneacetonitrile | N=1OC(=C2C1C=CC=C2)C2=CC=C(C=C2)CC#N | C15H10N2O
